US07429665B2
2-[2-Fluoro-4-(4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline
Following the procedure for the preparation of 2-[-4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenoxymethyl}-quinoline but substituting 1-[3-Fluoro-4-(quinolin-2-ylmethoxy)-phenyl]-2-pyridin-4-yl-ethanone provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.47 (bs, 2H), 8.19 (d, J=8.7 Hz, 1H), 8.05 (d, J=8.3 Hz, 1 H), 7.71 (m, 4H), 7.54 (t, J=7.1 Hz, 1H), 7.18 (m, 3H), 7.07 (m, 2 H), 5.42 (s, 2 H); MS: (M+H m/z=397.0).

reactant | 2-[-4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenoxymethyl}-quinoline | N1=CC=C(C=C1)C1=C(NN=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C24H18N4O
reactant | 1-[3-Fluoro-4-(quinolin-2-ylmethoxy)-phenyl]-2-pyridin-4-yl-ethanone | FC=1C=C(C=CC1OCC1=NC2=CC=CC=C2C=C1)C(CC1=CC=NC=C1)=O | C23H17FN2O2
product | 2-[2-Fluoro-4-(4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | FC1=C(OCC2=NC3=CC=CC=C3C=C2)C=CC(=C1)C1=NNC=C1C1=CC=NC=C1 | C24H17FN4O
